US07723326B2
A. 2,2,7-Trimethyl-4H-benzo[1,4]oxazin-3-one (Compound 1A)
A solution of 6-amino-m-cresol (10 g, 81.2 mmol) in dichloroethane (100 mL) was treated with 11.1 mL of 2-bromoisobutyryl bromide (89.3 mmol). The reaction was allowed to stir at room temperature for 3 hours, then refluxed overnight. The reaction was cooled to room temperature and filtered through celite. The filtrate and washings were combined and excess solvent removed to yield crude product which was then triturated with hexanes to give pure product as a white solid. MS (electrospray): mass calculated for C11H13NO2, 191.09; m/z found 192.2, [M+H]+.

reactant | 6-amino-m-cresol | 81.2 mmol, 10 g | NC=1C=CC(=CC1O)C | C7H9NO
reactant | 2-bromoisobutyryl bromide | 89.3 mmol, 11.1 mL | BrC(C(=O)Br)(C)C | C4H6Br2O
solvent | dichloroethane | 100 mL | ClC(C)Cl | C2H4Cl2
product | 2,2,7-Trimethyl-4H-benzo[1,4]oxazin-3-one | CC1(OC2=C(NC1=O)C=CC(=C2)C)C | C11H13NO2
